Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.31270722712
[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-4.153266339719998
[H:1][C:2][O:3][C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3][C:4](=[C:5]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:6],3.08236675321
[H:3].[O:1]=[C:2]=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10],-2.82090242676
[H:1][C:2]=[C:3]([H:4])/[C:5](=[C:6]\[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5](#[C:9][H:10])[H:11].[H:1][C:2]([C:3]#[C:6][O:7][H:8])([H:4])[H:12],-0.565271180291
[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4]([H:5])=[C:6][H:7]>>[H:1][C:2][O:3][C:4]([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],-4.845272266219999
[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14],-4.36605738239
[C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.1335740791000015
[H:1][C:2]1=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[O:12]1>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[O:8])[O:12][C:9]([H:10])[H:11],3.69712944232
[C:8]([H:9])([H:10])=[C:11]=[C:12]([H:13])[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[H:7]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],-0.5752761384089999
[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])([H:6])=[C:7]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[O:3],-1.9324517479
[C:10]([H:11])[H:12].[H:1][C:2][C:3]([H:4])=[C:5]([O:6][H:7])[O:8][H:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])([O:8][H:9])[C:10]([H:11])[H:12],-4.46210370579
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[H:10]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9],1.9080410586200005
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-0.980582125971
[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3]([H:4])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-3.7960332846900022
[C:3]([H:4])([H:5])=[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.63617786811
[C:7]([H:8])([H:9])=[C:10][H:11].[O:1]=[C:2]=[C:3]([H:4])[O:5][H:6]>>[O:1]=[C:2][C@:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10][H:11],0.70993995534
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[C:3]([H:4])=[C:5]([H:6])[O:7][C:8]=[C:9]([H:10])[H:11].[H:1][C:2],6.32947197331
[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3](=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-6.21616059
[H:1][C:2]([C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],4.56426362205
[H:11].[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])=[C:12]([H:13])[H:14]>>[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.82822241964
[H:1][C:2]=[C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3](#[C:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2],4.22276111591
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]=[C:12]([H:13])[H:14]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]=[C:12]([H:13])[H:14].[H:1][O:2],5.41519320924
[H:1][C:2]([C:3]#[C:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]#[C:4][O:5][C:6]([H:7])([H:8])[H:9].[H:1][C:2][C:10]([H:11])([H:12])[H:13],6.48226275997
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:11]([H:12])([H:13])[H:14],1.82291364481
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:10]([H:11])([H:12])=[C:13]([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9],-1.21101649
